US09034855B2
tert-Butyl{2-[(1-hydroxy-2-methylpropan-2-yl)amino]-2-oxo-1-[3-(trifluoromethyl)phenyl]ethyl}-carbamate (racemate)
360 mg (1.88 mmol) of EDC were added to a mixture of 400 mg (1.25 mmol) of [(tert-butoxycarbonyl)amino][3-(trifluoromethyl)phenyl]acetic acid and 254 mg (1.88 mmol) of HOBt in 10 ml of DMF, and the mixture was stirred at RT for 20 min. The resulting solution was added dropwise to a solution of 168 mg (1.88 mmol) of 2-amino-2-methyl-1-propanol in 2 ml of DMF. The reaction mixture was stirred at RT for 20 min. For purification, 1 ml of 1N hydrochloric acid was added and the entire reaction mixture was separated by preparative HPLC [Method 6]. The appropriate fraction was concentrated on a rotary evaporator and the residue was dried under high vacuum. This gave 364 mg (74% of theory) of the title compound.

reactant | EDC | 1.88 mmol, 360 mg
reactant | [(tert-butoxycarbonyl)amino][3-(trifluoromethyl)phenyl]acetic acid | 1.25 mmol, 400 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C14H16F3NO4
reactant | HOBt | 1.88 mmol, 254 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-2-methyl-1-propanol | 1.88 mmol, 168 mg | NC(CO)(C)C | C4H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-Butyl{2-[(1-hydroxy-2-methylpropan-2-yl)amino]-2-oxo-1-[3-(trifluoromethyl)phenyl]ethyl}-carbamate | C(C)(C)(C)OC(NC(C(=O)NC(CO)(C)C)C1=CC(=CC=C1)C(F)(F)F)=O | C18H25F3N2O4
